US04512999
A solution of 2.3 g of methylene-6,7-dioxo-3,3-dimethyl-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylate pivalate in 75 ml of benzene is treated at room temperature with 4 g of methylsulphonylacetylmethylenetriphenylphosphorane. After 10 minutes, the reaction mixture is evaporated. The residue is chromatographed on silica gel while eluting with cyclohexane/ethyl acetate (1:1). There is obtained methylene-(2S,5R)-3,3-dimethyl-7-oxo-6-[3-methylsulphonyl-2-oxopropylidene]-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylate pivalate as an orange oil [Rf: 0.23; cyclohexane/ethyl acetate (1:1); NMR (CDCl3), δ (ppm): 1.22 (9H); 1.5 (3H); 1.56 (3H); 3.03 (3H, CH3 --SO2); 4.24 (2H, --CH2 --SO2); 4.59 (1H); 6.02 (1H); 6.79 (1H)].

reactant | methylene-6,7-dioxo-3,3-dimethyl-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylate pivalate | 2.3 g | C(C(C)(C)C)(=O)O.C=S1C(C(N2C(C(C12)=O)=O)C(=O)O)(C)C
reactant | methylsulphonylacetylmethylenetriphenylphosphorane | 4 g | CS(=O)(=O)CC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O3PS
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
product | methylene-(2S,5R)-3,3-dimethyl-7-oxo-6-[3-methylsulphonyl-2-oxopropylidene]-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylate pivalate | C(C(C)(C)C)(=O)O.C=S1C([C@@H](N2C(C([C@@H]12)=CC(CS(=O)(=O)C)=O)=O)C(=O)O)(C)C | InChI=1S/C13H17NO6S2.C5H10O2/c1-13(2)9(12(17)18)14-10(16)8(11(14)21(13)3)5-7(15)6-22(4,19)20;1-5(2,3)4(6)7/h5,9,11H,3,6H2,1-2,4H3,(H,17,18);1-3H3,(H,6,7)/t9-,11+,21?;/m0./s1
